US09315521B2
2-{[(2-chloro-4-nitrophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
1-(bromomethyl)-2-chloro-4-nitrobenzene, 6-methyl-2-sulfanylpyrimidin-4-ol (425 mg, 3 mmol), and potassium carbonate (420 mg, 3 mmol) were mixed in DMF (10 mL). The mixture was stirred at room temperature for 2 hours. To the mixture, water (100 mL) was added. The suspension was filtered and washed with water and ethyl acetate to provide pure titled product (500 mg, 54% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.20 (s, 3H), 4.55 (s, 2H), 6.03 (s, 1H), 7.92 (d, 1H), 8.19 (d, 1H), 8.31 (s, 1H); M+312.

reactant | 1-(bromomethyl)-2-chloro-4-nitrobenzene | BrCC1=C(C=C(C=C1)[N+](=O)[O-])Cl | C7H5BrClNO2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 3 mmol, 425 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 3 mmol, 420 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-{[(2-chloro-4-nitrophenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 500 mg, 54% yield | ClC1=C(C=CC(=C1)[N+](=O)[O-])CSC1=NC(=CC(=N1)O)C | C12H10ClN3O3S
